US07157464B2
Synthesis of 1-[(4-Methanesulfonyl-phenyl)-piperazine-1-yl]-2-(4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-ethanone
Title compound was prepared following the HATU mediated coupling protocol P, wherein 1-(4-Methanesulfonyl-phenyl)-piperazine and (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid were used as the coupling components, to give the product as a solid: 1H NMR (DMSO-d6, 400 MHz) 7.69 (d, 2H), 7.08 (d,2H), 5.38 (s, 2H), 3.59 (m, 4H), 3.49 (m, 2H), 3.38 (m, 2H), 3.09 (s, 3H), 2.19 (s, 3H) ppm; MS (ES) M+H expected=465.1, found=465.0.

reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(4-Methanesulfonyl-phenyl)-piperazine | CS(=O)(=O)C1=CC=C(C=C1)N1CCNCC1 | C11H16N2O2S
reactant | (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid | ClC=1C(=NN(C1C)CC(=O)O)C(F)(F)F | C7H6ClF3N2O2
product | 1-[(4-Methanesulfonyl-phenyl)-piperazine-1-yl]-2-(4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-ethanone | CS(=O)(=O)C1=CC=C(C=C1)C1N(CCNC1)C(CN1N=C(C(=C1C)Cl)C(F)(F)F)=O | C18H20ClF3N4O3S
